US08729095B2
To a solution in tetrahydrofuran (5.0 ml), ethanol (5.0 ml) and water (5.0 ml) of methyl 2′-{[(1R)-3-{[tert-butyl(diphenyl)silyl]oxy}-1-methylpropyl]oxy}-3-chlorobiphenyl-4-carboxylate (565 mg) was added 1 N aqueous sodium hydroxide solution (1.48 ml), followed by stirring at 60° C. for 8 hours. After the reaction solution was concentrated under reduced pressure, a 10% aqueous citric acid solution and dichloromethane were added to the residue, and the solution was separated. The organic layer was washed with saturated sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to afford 2′-{[(1R)-3-{[tert-butyl(diphenyl)silyl]oxy}-1-methylpropyl]oxy}-3-chlorobiphenyl-4-carboxylic acid.

reactant | ethanol | 5.0 ml | C(C)O | C2H6O
reactant | water | 5.0 ml | O | H2O
reactant | methyl 2′-{[(1R)-3-{[tert-butyl(diphenyl)silyl]oxy}-1-methylpropyl]oxy}-3-chlorobiphenyl-4-carboxylate | 565 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@@H](C)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)OC)Cl | C34H37ClO4Si
reactant | sodium hydroxide | 1 N, 1.48 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
product | 2′-{[(1R)-3-{[tert-butyl(diphenyl)silyl]oxy}-1-methylpropyl]oxy}-3-chlorobiphenyl-4-carboxylic acid | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC[C@@H](C)OC1=C(C=CC=C1)C1=CC(=C(C=C1)C(=O)O)Cl | C33H35ClO4Si
